US08349880B2
Step N (6): Methanolic ammonia (2.0 M, 100 mL, 200 mmol) was added to a flask charged with 4-(difluoromethyl)-1-(4-isothiocyanato-2-methoxyphenyl)-1H-imidazole (2.26 g, 8.1 mmol). After 16 h, the reaction mixture was concentrated in vacuo to afford 1-(4-(4-(difluoromethyl)-1H-imidazol-1-yl)-3-methoxyphenyl)thiourea (2.08 g, 87% yield). LC-MS (M+H)+ 299.1.

reactant | ammonia | 200 mmol, 2.0 M, 100 mL | N | H3N
reactant | 4-(difluoromethyl)-1-(4-isothiocyanato-2-methoxyphenyl)-1H-imidazole | 8.1 mmol, 2.26 g | FC(C=1N=CN(C1)C1=C(C=C(C=C1)N=C=S)OC)F | C12H9F2N3OS
product | 1-(4-(4-(difluoromethyl)-1H-imidazol-1-yl)-3-methoxyphenyl)thiourea | 2.08 g, 87% yield | FC(C=1N=CN(C1)C1=C(C=C(C=C1)NC(=S)N)OC)F | C12H12F2N4OS
